US05665777
To a solution in THF (100 mL) of 3-(4-bromophenylthio)propanoic acid (6.88 g, 26.5 mmol) was added 4-methylmorpholine (2.94 g, 29.2 mmol) and isobutyl chloroformate (3.6 g, 29.2 mmol) and the reaction mixture was stirred for 1 hour. To the reaction mixture was added aqueous O-tert-butylhydroxylamine (39.8 mmol; prepared by dissolving the hydrochloride in water and adding 3M NaOH to give the free base) and the reaction mixture was stirred overnignt at ambient temperature. The reaction mixture was poured into a mixture of ethyl ether and saturated aqueous NH4Cl. The aqueous phase was extracted with ethyl ether. The combined organic layers were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo. Chromatography on silica gel (30% ethyl acetate-hexanes) gave O-tert-butyl-2-(4-bromophenylthio)propanohydroxamic acid (5.36 g, 60%).

reactant | 3-(4-bromophenylthio)propanoic acid | 26.5 mmol, 6.88 g | BrC1=CC=C(C=C1)SCCC(=O)O | C9H9BrO2S
reactant | 4-methylmorpholine | 29.2 mmol, 2.94 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 29.2 mmol, 3.6 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | O-tert-butylhydroxylamine | C(C)(C)(C)ON | C4H11NO
reactant | hydrochloride | Cl | ClH
reactant | NaOH | 3M | [OH-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl ether | C(C)OCC | C4H10O
product | O-tert-butyl-2-(4-bromophenylthio)propanohydroxamic acid | 5.36 g, 60% | C(C)(C)(C)ONC(C(C)SC1=CC=C(C=C1)Br)=O | C13H18BrNO2S
